US06992096B2
Preparation of 3-[5-(2-Fluoro-phenyl)-[1,2,4]oxadiazol-3-yl]-benzoic acid
To a solution of 3-(N-Hydroxycarbamimidoyl)-benzoic acid methyl ester (60 g, 310 mmol) in anhydrous THF (200 mL) was added diisopropylethylamine (75 mL, 434 mmol) at 5° C., and then to the mixture was added 2-fluorobenzoyl chloride (48.1 mL, 403 mmol) over 20 min. The reaction mixture was stirred for 1 h at room temperature. The precipitate was filtered off and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethylacetate (400 mL) and then washed with water (200 mL×2). The solvent was removed under reduced pressure and the desired product was crystallized in 60% ethylacetate in hexane to yield the desired product (81 g, 83% yield) as a white solid. 1H-NMR (CDCl3) δ 8.18 (1H), 8.03 (2H), 7.48 (2H), 7.18 (2H), 5.61 (2H), 3.82 (3H).

reactant | 3-(N-Hydroxycarbamimidoyl)-benzoic acid methyl ester | 310 mmol, 60 g | COC(C1=CC(=CC=C1)C(NO)=N)=O | C9H10N2O3
reactant | diisopropylethylamine | 434 mmol, 75 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-fluorobenzoyl chloride | 403 mmol, 48.1 mL | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-[5-(2-Fluoro-phenyl)-[1,2,4]oxadiazol-3-yl]-benzoic acid | 81 g, 83% yield | FC1=C(C=CC=C1)C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1 | C15H9FN2O3
